US08557830B2
A solution of 4-(5-(3-(9-(4-methoxybenzyl)-9H-purin-6-yl)pyridin-2-ylamino)-6-methylisoquinolin-1-ylamino)benzonitrile (0.37 g, 0.63 mmol) in TFA (3 mL) was stirred in a 65° C. oil bath for 4.5 h. The reaction mixture was concentrated to give a dark orange residue. The residue was dissolved in MeCN (4 mL) and added dropwise to 1 N HCl in Et2O (100 mL). The resulting precipitate was collected by suction filtration. The bright yellow solid was dissolved in MeOH (50 mL) and 2M NH3 in MeOH (50 mL) and adsorbed onto a pad of silica gel. The crude product was chromatographed through a Redi-Sep® pre-packed silica gel column (12 g), eluting with a gradient of 1% to 10% 1 M NH3.MeOH in CH2Cl2 (over 30 min), to provide 4-(5-(3-(9H-purin-6-yl)pyridin-2-ylamino)-6-methylisoquinolin-1-ylamino)benzonitrile (0.128 g, 43% yield). The orange solid was suspended in MeOH (5 mL), Et2O (100 mL), and hexane (100 mL), and stirred at reflux for 2 h. The solid was collected by suction filtration, washed with hexane and dried in vacuo at 80° C. overnight to give 4-(5-(3-(9H-purin-6-yl)pyridin-2-ylamino)-6-methylisoquinolin-1-ylamino)benzonitrile as an amorphous orange solid. 1H NMR (400 MHz, DMSO-d6) □ ppm 2.38 (s, 3H), 6.91 (dd, J=7.78, 4.77 Hz, 1H), 7.28 (d, J=5.52 Hz, 1H), 7.66 (d, J=8.53 Hz, 1H), 7.75 (d, J=8.53 Hz, 2H), 8.01 (d, J=5.52 Hz, 1H), 8.03-8.07 (m, 1H), 8.13 (d, J=8.53 Hz, 2H), 8.42 (d, J=9.03 Hz, 1H), 8.74 (s, 1H), 9.06 (s, 1H), 9.66 (s, 1H), 9.71-9.85 (m, 1H), 11.87 (s, 1H), 13.84 (s, 1H).

reactant | 4-(5-(3-(9-(4-methoxybenzyl)-9H-purin-6-yl)pyridin-2-ylamino)-6-methylisoquinolin-1-ylamino)benzonitrile | 0.63 mmol, 0.37 g | COC1=CC=C(CN2C3=NC=NC(=C3N=C2)C=2C(=NC=CC2)NC2=C3C=CN=C(C3=CC=C2C)NC2=CC=C(C#N)C=C2)C=C1 | C35H27N9O
reactant | HCl | 1 N | Cl | ClH
reactant | MeOH | CO | CH4O
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | MeCN | 4 mL | CC#N | C2H3N
solvent | Et2O | 100 mL | CCOCC | C4H10O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(5-(3-(9H-purin-6-yl)pyridin-2-ylamino)-6-methylisoquinolin-1-ylamino)benzonitrile | 0.128 g, 43% yield | N1=CN=C2NC=NC2=C1C=1C(=NC=CC1)NC1=C2C=CN=C(C2=CC=C1C)NC1=CC=C(C#N)C=C1 | C27H19N9
